US08440652B2
To a solution of 2-(2-aminopyridin-3-yl)-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one (250 mg, 1.02 mmol) in DMF (3 ml) was added NBS (199 mg, 1.12 mmol). The reaction was stirred at room temperature for 1 h, then concentrated and taken up in DCM (10 mL). The organic solution was washed with a sat. aq. Na2S2O3, then dried over Na2SO4, and concentrated to give 2-(2-amino-5-bromopyridin-3-yl)-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one (320 mg, 97% yield) as an orange solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.06 (d, J=2.0 Hz, 1H), 7.73 (br. s., 1H), 7.66 (d, J=1.8 Hz, 1H), 7.29 (s, 1H), 6.23 (br. s., 2H), 3.40-3.50 (m, 2H), 2.83 (t, J=6.9 Hz, 2H); MS (EI) m/z=325.2 [M+1]+.

reactant | 2-(2-aminopyridin-3-yl)-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one | 1.02 mmol, 250 mg | NC1=NC=CC=C1C1=CC2=C(C(NCC2)=O)S1 | C12H11N3OS
reactant | NBS | 1.12 mmol, 199 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(2-amino-5-bromopyridin-3-yl)-5,6-dihydrothieno[2,3-c]pyridin-7(4H)-one | 320 mg, 97% yield | NC1=NC=C(C=C1C1=CC2=C(C(NCC2)=O)S1)Br | C12H10BrN3OS
